US07112590B2
tert-Butyl (1R)-1-benzyl-2-oxo-2-{(2S)-2-[(4,5,6,7-tetrahydro-2H-indazol-5-ylamino)carbonyl]pyrrolidinyl}ethylcarbamate
The title compound was prepared from Boc-D-PheL-Pro-OH and 5-amino-4,5,6,7-tetrahydro-2H-indazole dihydrochloride using the procedure of EXAMPLE 6, and was obtained as a white solid.

reactant | Boc-D-PheL-Pro-OH | N([C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C19H26N2O5
reactant | 5-amino-4,5,6,7-tetrahydro-2H-indazole dihydrochloride | Cl.Cl.NC1CC2=CNN=C2CC1
product | tert-Butyl (1R)-1-benzyl-2-oxo-2-{(2S)-2-[(4,5,6,7-tetrahydro-2H-indazol-5-ylamino)carbonyl]pyrrolidinyl}ethylcarbamate | Yield: 80% | C(C1=CC=CC=C1)[C@H](C(N1[C@@H](CCC1)C(=O)NC1CC2=CNN=C2CC1)=O)NC(OC(C)(C)C)=O | C26H35N5O4
